US07544704B2
4-Ethyl-2-(5-methyl-3-phenyl-isoxazol-4-ylethynyl)-pyridine
As described for example 11c, 4-ethynyl-5-methyl-3-phenyl-isoxazole (92 mg, 0.50 mmol) was converted (using 2-bromo-4-ethylpyridine instead of 2-chloro-4-iodopyridine) to the title compound (SiO2, heptane:ethyl acetate=95:5 to 0:100, 74 mg, 51%) which was obtained as a yellow oil. MS: m/e=289.1 [M+H]+.

reactant | 4-ethynyl-5-methyl-3-phenyl-isoxazole | 0.50 mmol, 92 mg | C(#C)C=1C(=NOC1C)C1=CC=CC=C1 | C12H9NO
reactant | 2-bromo-4-ethylpyridine | BrC1=NC=CC(=C1)CC | C7H8BrN
product | 4-Ethyl-2-(5-methyl-3-phenyl-isoxazol-4-ylethynyl)-pyridine | 74 mg, 51% | C(C)C1=CC(=NC=C1)C#CC=1C(=NOC1C)C1=CC=CC=C1 | C19H16N2O
